US04723033
A solution of 1 g of (S)-2-(5-chloro-6-methoxy-2-naphthyl)-propionic acid in 20 ml of 10% aqueous sodium hydroxide solution at 90° C. is treated with 3 g of a nickel-aluminum alloy in small portions. After stirring the mixture for two hours, it is filtered, diluted with excess dilute hydrochloric acid and extracted with methylene chloride. The organic phase is evaporated to dryness and the residue recrystallized from methylene chloride/hexane to yield (S)-2-(6-methoxy-2-naphthyl)propionic acid after recrystallization.

reactant | (S)-2-(5-chloro-6-methoxy-2-naphthyl)-propionic acid | 1 g | ClC1=C2C=CC(=CC2=CC=C1OC)[C@@H](C(=O)O)C | C14H13ClO3
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | nickel-aluminum alloy | 3 g | [Al].[Ni]
product | (S)-2-(6-methoxy-2-naphthyl)propionic acid | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
